US09428470B2
B) 5-(Benzyloxy)-N-hydroxy-2-methylbenzenecarboximidoyl chloride
N-Chlorosuccinimide (3.72 g) was added in small portions to a solution of (E)-1-(5-(benzyloxy)-2-methylphenyl)-N-hydroxymethanimine (6.40 g) in DMF (60 mL) at room temperature, and the obtained mixture was stirred at room temperature for 2 hours. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (6.05 g).

reactant | N-Chlorosuccinimide | 3.72 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | (E)-1-(5-(benzyloxy)-2-methylphenyl)-N-hydroxymethanimine | 6.40 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)\C=N\O)C | C15H15NO2
reactant | water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 5-(Benzyloxy)-N-hydroxy-2-methylbenzenecarboximidoyl chloride | 6.05 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C(=NO)Cl)C | C15H14ClNO2
